US06887889B2
To a stirred solution of (3,4-difluoro-phenyl)-(2-{[4-(4-iodo-phenyl)-1-methyl-piperidin-4-ylmethyl]-amino}-ethyl)-carbamic acid tert-butyl ester (2.03 g, 3.47 mmol) in CH2Cl2 (25 mL) at 0° C. was added TFA (6 mL, to give a 25% v/v solution). The mixture was stirred and warmed to room temperature for 4 h. The solvent was removed by rotary evaporation and the residue was dissolved in EtOAc (50 mL) and washed with 10% aqueous NaHCO3 (2×50 mL). The organic extracts were dried over sodium sulfate, filtered and concentrated by rotary evaporation to give N-(3,4-difluoro-phenyl)—N′-[4-(4-iodo-phenyl)-1-methyl-piperidin-4-ylmethyl]-ethane-1,2-diamine (1.20 g, 96%) as a white solid.

reactant | (3,4-difluoro-phenyl)-(2-{[4-(4-iodo-phenyl)-1-methyl-piperidin-4-ylmethyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 3.47 mmol, 2.03 g | C(C)(C)(C)OC(N(CCNCC1(CCN(CC1)C)C1=CC=C(C=C1)I)C1=CC(=C(C=C1)F)F)=O | C26H34F2IN3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(3,4-difluoro-phenyl)—N′-[4-(4-iodo-phenyl)-1-methyl-piperidin-4-ylmethyl]-ethane-1,2-diamine | 1.20 g, 96% | FC=1C=C(C=CC1F)NCCNCC1(CCN(CC1)C)C1=CC=C(C=C1)I | C21H26F2IN3
